* sg13g2-lna -- DC operating-point PVT bench of the Q1 bias generator
* (issue #26 acceptance sweep).
* Generated from sim/lna-bias-pvt/testbench/tb_lna_biasop.spice.tmpl by
* sim/lna-bias-pvt/run_biasop_sweep.sh -- do not edit a generated
* netlist-snapshots/*.spice file directly, edit this template and re-run.
* Full methodology, bench definitions and model limitations are in
* sim/lna-bias-pvt/README.md; this header is a short pointer.
*
* Generated for: HBT_SECTION=hbt_wcs TEMP=27 C VDD=1.62 V
*
* The DUT subcircuit below is INLINED VERBATIM from the committed
* design/netlist/lna.spice (xschem-generated from design/lna.sch), with only
* xschem's own commented-out `**.subckt`/`**.ends` markers uncommented and
* its trailing `.end` dropped -- the same convention
* sim/lna-characterization/run_lna_sweep.sh uses. NO device line is altered.
* The runner records design/netlist/lna.spice's sha256 in the record so a
* later reader can tell which schematic revision a number belongs to.
*
* What this deck measures: the DC operating point ONLY. The two acceptance
* bars of issue #26 are op-point quantities:
*   - DR-1's bias-network requirement: I_C1 <= 4.5 mA at every PVT cell
*   - spec/target-spec.md's DRAFT power row: P_dc = VDD * I_DD < 10 mW at
*     every cell (both rows stay unratified; this is evidence for them,
*     not a conformance verdict).
* It measures NOTHING RF: no S-parameter, NF, gain, k-factor or IIP3 claim
* lives here (issue #18's benches own those, re-run post-fix against this
* same netlist).

.lib "/Users/rwalters/share/pdk/ihp-sg13g2/libs.tech/ngspice/models/cornerHBT.lib" hbt_wcs
.options temp=27 tnom=27

* ---------------------------------------------------------------------
* DUT subcircuit, inlined verbatim from design/netlist/lna.spice
* ---------------------------------------------------------------------
** sch_path: /Users/rwalters/GitHub/sg13g2-lna/.loom/worktrees/issue-26/design/lna.sch
.subckt lna vdd vss rfin rfout

*.iopin vdd
*.iopin vss
*.iopin rfin
*.iopin rfout
XQ2 outn vb2 casc vss npn13G2 Nx=8
XQ1 casc b1 e1 vss npn13G2 Nx=8
Le e1 vss 1n m=1
Lc vdd outn 5n m=1
Cin rfin b1 100p m=1
Cout outn rfout 100p m=1
Cbyp2 vb2 vss 100p m=1
Cvdd vdd vss 100p m=1
R2a vdd vb2 1k m=1
R2b vb2 vss 11k m=1
R3a vdd bref 2.45k m=1
R3b bref b1 330 m=1
XQ3 bref bref vss vss npn13G2 Nx=1
Cbref bref vss 100p m=1
.ends

Vdda vdd 0 dc 1.62
Vssa vss 0 dc 0
Rtin rfin 0 50
Rtout rfout 0 50
Xdut vdd vss rfin rfout lna

.control
op
let ic1 = @q.xdut.xq1.qnpn13g2[ic]
let ic2 = @q.xdut.xq2.qnpn13g2[ic]
let ic3 = @q.xdut.xq3.qnpn13g2[ic]
let ib1 = @q.xdut.xq1.qnpn13g2[ib]
let vb1 = v(xdut.b1)
let vbref = v(xdut.bref)
let vce1 = v(xdut.casc) - v(xdut.e1)
let vce2 = v(xdut.outn) - v(xdut.casc)
let vbe1 = v(xdut.b1) - v(xdut.e1)
let idd = -i(vdda)
let pdc = 1.62 * (-i(vdda))
echo "BIASOP ic1 $&ic1 ic2 $&ic2 ic3 $&ic3 ib1 $&ib1 vb1 $&vb1 vbref $&vbref vce1 $&vce1 vce2 $&vce2 vbe1 $&vbe1 idd $&idd pdc $&pdc"
echo "BENCH_COMPLETE"
quit
.endc
.end